US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-phenoxybenzoate (0.093 g) in ethyl acetate (1.5 mL) and methanol (1.5 mL), 10% palladium-carbon (0.047 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Chloroform was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 80-70% hexane/ethyl acetate] to obtain 0.067 g of tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-phenoxybenzoate as a yellow solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-(piperidin-1-yl)benzamido)-4-phenoxybenzoate | 0.093 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)OC2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C36H38N2O5
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.047 g | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-5-(piperidin-1-yl)benzamido)-4-phenoxybenzoate | 0.067 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)OC2=CC=CC=C2)C=C(C=C1)N1CCCCC1 | C29H32N2O5
